US08604062B2
N-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide (200 mg, 0.51 mmol) in THF (2 mL) was added at 0° C. potassium bis(trimethylsilyl)amide (0.91 M in THF, 614 μL, 0.56 mmol) over a period of 2 min. After stirring for 0.5 h at this temperature iodomethane (41 μL, 0.66 mmol) was added and the resulting suspension was stirred for 2 h at ambient temperature. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=50:50 to 0:100) afforded the title compound (91 mg, 44%) as a white foam. MS: m/e=408.5 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 0.51 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C22H23N3O4
reactant | potassium bis(trimethylsilyl)amide | 0.56 mmol, 0.91 M, 614 μL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | iodomethane | 0.66 mmol, 41 μL | IC | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 91 mg, 44% | CN(C(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O)C1CCOCC1 | C23H25N3O4
